US05250517
A solution of 40.9 g (0.18 mol) of (S)-(-)-2-phenyl-3-methylbromobutane in 110 ml of tetrahydrofuran and 0.5 ml of 1,2-dibromoethane was slowly added dropwise to a suspension of 6.6 g of magnesium in 25 ml of ether. The temperature rose to 50°. Thereafter, the reaction mixture was stirred at 50° for a further 2 hours and then cooled to -50°. Then, a solution of 13 g (0.06 mol) of N-t-butoxycarbonyl-L-leucinal in 40 ml of tetrahydrofuran was added slowly. After 16 hours at room temperature, the reaction mixture was treated with 200 ml of a 20% ammonium chloride solution. The organic phase was dried over magnesium sulfate and the solvent was evaporated under reduced pressure. The residue (24.3 g) was chromatographed on silica gel with a 4:1 mixture of hexane and ether, to obtain 9.3 g of t-butyl [(1S,2S,4S)-2-hydroxy-1-isobutyl-5 -methyl-4-phenylhexyl]carbamate which has a melting point of 95°-96° after crystallization from hexane.

reactant | (S)-(-)-2-phenyl-3-methylbromobutane | 0.18 mol, 40.9 g | C1(=CC=CC=C1)[C@@H](CBr)C(C)C | C11H15Br
reactant | magnesium | 6.6 g | [Mg] | Mg
reactant | N-t-butoxycarbonyl-L-leucinal | 0.06 mol, 13 g | C(C)(C)(C)OC(=O)N[C@@H](CC(C)C)C=O | C11H21NO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 110 ml | O1CCCC1 | C4H8O
solvent | 1,2-dibromoethane | 0.5 ml | BrCCBr | C2H4Br2
solvent | ether | 25 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | t-butyl [(1S,2S,4S)-2-hydroxy-1-isobutyl-5 -methyl-4-phenylhexyl]carbamate | 9.3 g | O[C@H]([C@H](CC(C)C)NC(OC(C)(C)C)=O)C[C@@H](C(C)C)C1=CC=CC=C1 | C22H37NO3
